US08138175B2
B) 3-[3-Methyl-2-oxo-4-(3-trifluoromethoxy-phenyl)-piperazin-1-yl]-propionaldehyde
Lithium aluminum hydride solution (1 M in THF (0.46 mL, 0.46 mmol) was added dropwise at −30° C. to a solution of N-methoxy-N-methyl-3-[3-methyl-2-oxo-4-(3-trifluoromethoxy-phenyl)-piperazin-1-yl]-propionamide (180 mg, 0.46 mmol) in THF (10 mL). The reaction mixture was cooled to −75° C., then acetone (0.59 g, 10 mmol) and AcOH (44 mg, 0.93 mmol) were added dropwise. The reaction mixture was then partitioned between TBME and 1 M aq. KHSO4 solution. The organic layer was dried (MgSO4), filtered, and evaporated to afford the title compound (122 mg, 80%). Light yellow oil, MS: 331.1 (M+H)+.

reactant | Lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | N-methoxy-N-methyl-3-[3-methyl-2-oxo-4-(3-trifluoromethoxy-phenyl)-piperazin-1-yl]-propionamide | 0.46 mmol, 180 mg | CON(C(CCN1C(C(N(CC1)C1=CC(=CC=C1)OC(F)(F)F)C)=O)=O)C | C17H22F3N3O4
reactant | acetone | 10 mmol, 0.59 g | CC(=O)C | C3H6O
reactant | AcOH | 0.93 mmol, 44 mg | CC(=O)O | C2H4O2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 0.46 mmol, 0.46 mL | C1CCOC1 | C4H8O
product | 3-[3-Methyl-2-oxo-4-(3-trifluoromethoxy-phenyl)-piperazin-1-yl]-propionaldehyde | 122 mg, 80% | CC1C(N(CCN1C1=CC(=CC=C1)OC(F)(F)F)CCC=O)=O | C15H17F3N2O3
